US08304546B2
A dichloromethane solution (6 ml) of 1-(3-aminopropyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (645 mg, 1.67 mmol) was ice-cooled. Triethylamine (253 mg, 2.5 mmol) and chloroacetyl chloride (207 mg, 1.83 mmol) were added to the solution and stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction using dichloromethane. The thus-obtained organic layer was condensed, and the residue was then purified using silica gel column chromatography (dichloromethane:ethyl acetate=4:1→2:1). The purified product was concentrated to dryness under reduced pressure, giving a white powder of 2-chloro-N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}acetamide (372 mg, yield: 48%).

reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | 1-(3-aminopropyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 1.67 mmol, 645 mg | NCCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC | C22H25FN2O3
reactant | Triethylamine | 2.5 mmol, 253 mg | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.83 mmol, 207 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | Water | O | H2O
product | 2-chloro-N-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]propyl}acetamide | 372 mg, yield: 48% | ClCC(=O)NCCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC | C24H26ClFN2O4
